US07449481B2
Compound PRE11: (5-Chloro-benzo[b]thiophen-2-yl)-boronic acid
To a solution of 5-chloro-benzo[b]thiophene (compound PRE10) (2.1 g, 12.46 mmol) in anhydrous THF (17 mL) was added dropwise at −60° C. n-BuLi 1.6M in hexane (8.55 mL, 13.69 mmol). After stirring for 30 min at −60° C., was added dropwise triisopropyl borate (3.17 mL, 13.69 mmol). The cooling bath was taken off and the reaction mixture was heated slowly to 0° C. and was added 1N HCl (30 mL) and ethyl acetate (30 mL). The organic layer was dried over Na2SO4 and concentrated to give 2.15 g of compound dd (white powder;

reactant | 5-chloro-benzo[b]thiophene | 12.46 mmol, 2.1 g | ClC1=CC2=C(SC=C2)C=C1 | C8H5ClS
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 13.69 mmol, 8.55 mL | CCCCCC | C6H14
reactant | triisopropyl borate | 13.69 mmol, 3.17 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-benzo[b]thiophen-2-yl)-boronic acid | 2.15 g, yield=81.5% | ClC1=CC2=C(SC(=C2)B(O)O)C=C1 | C8H6BClO2S
